US04640913
2-Hexadecyl phenol
A solution of about 14.94 g of 1-hexadecyl-2-methoxybenzene in methylene chloride, under argon, was cooled to about -78° C. and about 3.76 g of boron tribromide was added. The mixture was allowed to warm to room temperature, was then stirred for about 24 hours and quenched by the dropwise addition of ice-cold water. The mixture was then washed with sodium bicarbonate solution, dried and evaporated, giving about 14 g of the desired reagent, mp 54°-55° C.

reactant | 1-hexadecyl-2-methoxybenzene | about 14.94 g | C(CCCCCCCCCCCCCCC)C1=C(C=CC=C1)OC | C23H40O
reactant | boron tribromide | about 3.76 g | B(Br)(Br)Br | BBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Hexadecyl phenol | about 14 g | C(CCCCCCCCCCCCCCC)C1=C(C=CC=C1)O | C22H38O
